US07247649B2
A mixture of 0.16 g (0.74 mmol) 4-(4-[1,2,3]triazol-1-yl-butyl)-phenol and 0.14 g cesium carbonate in 20 ml 2-butanone was stirred at 60° C. for 30 min, then 0.20 g (0.74 mmol) 4-chloromethyl-2-[2-(4-chloro-3-fluoro-phenyl)-vinyl]-oxazole and 0.123 g (0.74 mmol) potassium iodide were added and stirring at 60° C. continued over night. After evaporation, 15 ml water was added and the mixture extracted thrice with 15 ml ethyl acetate. The combined organic layers were washed with 1N sodium hydroxide and water, dried over sodium sulfate and evaporated to give 350 mg raw material which was purified on silica gel. Elution with heptane/ethyl acetate 1:1 yielded 167 mg (50%) 1-[4-(4-{2-[2-(E)-(4-chloro-3-fluoro-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1H-[1,2,3]triazole as white solid melting at 146-149° C.

reactant | 4-(4-[1,2,3]triazol-1-yl-butyl)-phenol | 0.74 mmol, 0.16 g | N1(N=NC=C1)CCCCC1=CC=C(C=C1)O | C12H15N3O
reactant | cesium carbonate | 0.14 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloromethyl-2-[2-(4-chloro-3-fluoro-phenyl)-vinyl]-oxazole | 0.74 mmol, 0.20 g | ClCC=1N=C(OC1)C=CC1=CC(=C(C=C1)Cl)F | C12H8Cl2FNO
reactant | potassium iodide | 0.74 mmol, 0.123 g | [I-].[K+]
solvent | 2-butanone | 20 ml | CC(CC)=O | C4H8O
product | 1-[4-(4-{2-[2-(E)-(4-chloro-3-fluoro-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1H-[1,2,3]triazole | 167 mg, 50% | ClC1=C(C=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1N=NC=C1)F | C24H22ClFN4O2
